US05457121
C. 1-methyl-cis-3,4-di(methanesulfonyloxymethyl)pyrrolidine
To an ice cooled solution of 6.2 gm (43 mMol) 1-methyl-cis-3,4-di(hydroxymethyl) pyrrolidine and 14.5 gm(143 mMol ) triethylamine in 200 mL dichloromethane was added a solution of 14.7 gm (129 mMol) methanesulfonyl chloride in 20 mL dichloromethane. Once this addition was complete the reaction mixture was stirred for 15 minutes at 0° C. and then for 1.5 hours at ambient. The reaction mixture was then quenched with dilute aqueous sodium hydroxide solution and then was extracted with dichloromethane. The organic phase was dried over sodium sulfate and then concentrated in vacuo to give 9.6 gm of the desired compound as an orange oil.

reactant | 1-methyl-cis-3,4-di(hydroxymethyl) pyrrolidine | 43 mMol, 6.2 gm | CN1C[C@H]([C@H](C1)CO)CO | C7H15NO2
reactant | triethylamine | 143 mMol, 14.5 gm | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 129 mMol, 14.7 gm | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-methyl-cis-3,4-di(methanesulfonyloxymethyl)pyrrolidine | 9.6 gm | CN1C[C@H]([C@H](C1)COS(=O)(=O)C)COS(=O)(=O)C | C9H19NO6S2
